US06465455B1
N-(5-benzamido-2-chlorophenyl)-2-amino-4-methoxybenzamide
Iron powder (2.79 g) was added to a stirred suspension of N-(5-benzamido-2-chlorophenyl)-4-methoxy-2-nitrobenzamide (2.13 g) in a mixture of ethanol (100 ml), water (20 ml) and acetic acid (4 ml). The mixture was stirred and heated to reflux for 6 hours. The mixture was cooled to ambient temperature. Water (50 ml) was added and the resultant mixture was basified by the addition of sodium carbonate. The mixture was filtered and the filtrate was evaporated. The residue was triturated under water. The resultant solid was isolated and dried under vacuum at 40° C. There was thus obtained the title compound (0.911 g);

reactant | N-(5-benzamido-2-chlorophenyl)-4-methoxy-2-nitrobenzamide | 2.13 g | C(C1=CC=CC=C1)(=O)NC=1C=CC(=C(C1)NC(C1=C(C=C(C=C1)OC)[N+](=O)[O-])=O)Cl | C21H16ClN3O5
reactant | water | 20 ml | O | H2O
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
reactant | Water | 50 ml | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Iron | 2.79 g | [Fe] | Fe
product | N-(5-benzamido-2-chlorophenyl)-2-amino-4-methoxybenzamide | 0.911 g | C(C1=CC=CC=C1)(=O)NC=1C=CC(=C(C1)NC(C1=C(C=C(C=C1)OC)N)=O)Cl | C21H18ClN3O3
